US06972294B1
3-{4-[3-phenyl-3-(biphenyl-4-yl)-propoxy]-phenyl}-2-ethoxy-propionic acid ethyl ester
Reaction of 3-biphenyl-4-yl-3-phenyl-propan-1-ol (145 mg, 0.5 mmol), triphenylphosphine (145 mg, 0.55 mmol), 2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester (140 mg, 0.6 mmol) and diethylazodicarboxylate (0.09 mL, 0.55 mmol) in an identical manner to Example 1 gave the title compound (230 mg).

reactant | 3-biphenyl-4-yl-3-phenyl-propan-1-ol | 0.5 mmol, 145 mg | C1(=CC=C(C=C1)C(CCO)C1=CC=CC=C1)C1=CC=CC=C1 | C21H20O
reactant | triphenylphosphine | 0.55 mmol, 145 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester | 0.6 mmol, 140 mg | C(C)OC(C(CC1=CC=C(C=C1)O)OCC)=O | C13H18O4
reactant | diethylazodicarboxylate | 0.55 mmol, 0.09 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
product | 3-{4-[3-phenyl-3-(biphenyl-4-yl)-propoxy]-phenyl}-2-ethoxy-propionic acid ethyl ester | 230 mg | C(C)OC(C(CC1=CC=C(C=C1)OCCC(C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=CC=C1)OCC)=O | C34H36O4
